US07304081B2
Step 3. N,N-dimethylpiperidine-4-carboxamide
Palladium (10.0 mg, 9.40E−6 mol) was added to a solution of benzyl 4-[(dimethylamino)carbonyl]piperidine-1-carboxylate (190.0 mg, 0.0006544 mol) in methanol (5.0 mL, 0.12 mol) under nitrogen. The mixture was hydrogenised with a balloon filled with hydrogen for 3 h. The mixture was filtered and the filtrate was concentrated to give the desired product.

reactant | benzyl 4-[(dimethylamino)carbonyl]piperidine-1-carboxylate | 0.0006544 mol, 190.0 mg | CN(C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C16H22N2O3
reactant | methanol | 0.12 mol, 5.0 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium | 9.40E−6 mol, 10.0 mg | [Pd] | Pd
product | N,N-dimethylpiperidine-4-carboxamide | CN(C(=O)C1CCNCC1)C | C8H16N2O
